Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___: PA catheter placement

attach
 
Pertinent Results:
DISCHARGE PHYSICAL EXAM:
========================
deceased

ADMISSION LABS:
===============
___ 12:28AM BLOOD WBC-9.7 RBC-3.63* Hgb-11.1* Hct-34.6* 
MCV-95 MCH-30.6 MCHC-32.1 RDW-13.1 RDWSD-45.4 Plt ___
___ 12:28AM BLOOD Neuts-77.3* Lymphs-11.6* Monos-9.4 
Eos-1.1 Baso-0.3 Im ___ AbsNeut-7.52* AbsLymp-1.13* 
AbsMono-0.91* AbsEos-0.11 AbsBaso-0.03
___ 12:28AM BLOOD ___ PTT-33.8 ___
___ 12:28AM BLOOD Glucose-162* UreaN-25* Creat-1.6* Na-137 
K-4.6 Cl-101 HCO3-21* AnGap-15
___ 12:28AM BLOOD ALT-7 AST-13 AlkPhos-78 TotBili-1.2
___ 12:28AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.2
___ 03:22PM BLOOD CK-MB-2 cTropnT-0.07*
___ 12:28AM BLOOD ___
___ 03:57PM BLOOD ___ pO2-156* pCO2-42 pH-7.18* 
calTCO2-16* Base XS--12 Comment-GREEN TOP
___ 03:57PM BLOOD Lactate-10.1*

PERTINENT MICRO:
=================
 
 
___ 11:44 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 

IMAGES:
=======
___ CXR:
Left dual lead chest wall ICD device, unchanged in positioning 
of the leads.  Cardiomediastinal silhouette is enlarged and 
unchanged from prior. 
Atherosclerotic calcifications of the aorta.  Tortuous aorta.  
Diffusely 
increased pulmonary interstitial markings bilaterally.  
Retrocardiac and right lower lung airspace opacities.  No large 
pleural effusion.  There are no pneumothoraces. 

___ TTE:
Quantitative biplane left ventricular ejection fraction is 36 %
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and moderate global hypokinesis. Severe 
aortic valve stenosis with thickened/deformed leaflets and mild 
aortic regurgitation. Severe mitral regurgitation with mildly 
thickened leaflets. Moderate pulmonary artery systolic 
hypertension.

___ CXR:
-___ catheter terminates at the level of the main 
pulmonary artery. 
-New opacities within the lower right lung, could be seen in 
setting of 
aspiration. 
-Stable mild pulmonary edema. 

___ CT AP:
1. Interval development of a large heterogeneous retroperitoneal 
hematoma 
measuring approximately 65 x 68 x ___ mm extending along the 
psoas. 
2. No evidence of nephrolithiasis. 
3. Cholelithiasis without cholecystitis. 
4. Hepatic segment VII 35 mm heterogeneous lesion requires 
further assessment 
with dedicated imaging.

___ CT AP:
1. Overall similar size of a large retroperitoneal hematoma 
measuring 13 x 9 
cm extending along the right psoas muscle with signs of active 
extravasation. 
2. Re-demonstrated two ill-defined hypodense non arterially 
enhancing lesions 
measuring up to 2.6 cm within segment ___ warrants further 
non-urgent 
evaluation with dedicated imaging. 
3. Small bilateral pleural effusions, right greater than left. 

DISCARGE LABS:
==============
___ 11:00PM BLOOD WBC-19.4* RBC-2.98* Hgb-9.0* Hct-27.2* 
MCV-91 MCH-30.2 MCHC-33.1 RDW-13.7 RDWSD-44.6 Plt ___
___ 02:00AM BLOOD Hgb-8.4* Hct-25.2*
___ 03:29AM BLOOD ___ PTT-85.6* ___
___ 03:31PM BLOOD Glucose-139* UreaN-42* Creat-2.1* Na-127* 
K-5.1 Cl-88* HCO3-24 AnGap-15
___ 02:12AM BLOOD Lactate-3.8*
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
Mr. ___ is a ___ year old man with hypertension, severe AS 
___ 0.7 cm2, mean gradient 30), ischemic cardiomyopathy with EF 
___, s/p AICD, CKD (baseline Cr 1.5-1.7), pending TAVR 
in ~1 week who presented to ___ after 5 days of 
cough, general malaise, leukocytosis, c/w CAP, briefly in the 
MICU for hypotension, new O2 requirement. He was transferred to 
the cardiology floor for management of severe AS. While on the 
floor, he flipped into Afib and became hypoxic with cold 
extremities and poor mental status. He was then transferred to 
the CCU due to concerns for cardiogenic and septic shock. He had 
a swan placed with low CI c/w cardiogenic shock and was started 
on diuretics and dobutamine and milrinone with improvement in 
urine output and CI. The plan was for him to undergo TAVR on 
___, for treatment of his AS. Unfortunately he was noted to 
have a large spontaneous vs. traumatic right psoas hematoma on 
CT AP obtained ___ for abdominal/groin pain. He required 1 
blood transfusion and low dose pressors, on the way to the CT 
scanner for a CTA to determine whether he was a candidate for ___ 
intervention. Unfortunately in the scanner, the patient had 
several episodes of emesis and presumably aspirated. He became 
bradycardic and went into PEA arrest. CPR was started, several 
rounds of chest compressions were done, 3 rounds of epi and 
bicarb were given. He was intubated with aggressive suctioning 
of mucous and blood. He was pronounced early this morning (see 
death note for additional detail). HCP was notified, and she 
declined autopsy.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. irbesartan 37.5 mg oral DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Naproxen 500 mg PO Q12H:PRN Pain - Mild 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. Spironolactone 12.5 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Cyanocobalamin 2500 mcg PO DAILY 
10. Rosuvastatin Calcium 20 mg PO QPM 
11. Ranitidine 150 mg PO QHS 
12. Magnesium Oxide 400 mg PO BID 

 
Discharge Medications:
deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
deceased
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___